US04895840
N-[2-[4-(Methylthio)phenoxy]ethyl]-2-propanamine hydrochloride [1:1]
A solution of 22.2 g (0.121 mole) of 2-[4-(methylthio)phenoxy]ethanol (from preparation 35), 16.41 g (0.143 mole) of mesyl chloride and an excess of triethylamine in 800 ml of benzene was stirred at room temperature for 2 hours. The mixture was extracted with water and then with dilute sodium hydroxide. The benzene solution was dried over magnesium sulfate, and the solvent was removed in vacuo. The residue was dissolved in 300 ml of isopropylamine, and the mixture was stirred at room temperature overnight. The solvent was removed in vacuo, and the residue was dissolved in methylene chloride. The methylene chloride solution was extracted with dilute sodium hydroxide and then with dilute sulfuric acid. The acidic extract was made basic with 50% sodium hydroxide, and the basic solution was extracted with methylene chloride. The methylene chloride solution was dried over magnesium sulfate, and the solvent was removed in vacuo to give the free base of the product as an oil. The free base was convreted to the hydrochloride salt, and the salt was recrystallized from methanol-diethyl ether to give 23.9 g (76%) of the product as a white, crystalline solid, m.p. 183.5°-185° C.

reactant | 2-[4-(methylthio)phenoxy]ethanol | 0.121 mole, 22.2 g | CSC1=CC=C(OCCO)C=C1 | C9H12O2S
reactant | mesyl chloride | 0.143 mole, 16.41 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | benzene | 800 ml | C1=CC=CC=C1 | C6H6
product | N-[2-[4-(Methylthio)phenoxy]ethyl]-2-propanamine hydrochloride | Cl.CSC1=CC=C(OCCNC(C)C)C=C1 | InChI=1S/C12H19NOS.ClH/c1-10(2)13-8-9-14-11-4-6-12(15-3)7-5-11;/h4-7,10,13H,8-9H2,1-3H3;1H
